US04077998
D-Histidine hydroxamic acid (1.9 g, 11.2 mMol) was dissolved in dimethylformamide (75 ml) and water (100 ml). Phthalic anhydride (1.65 g, 11.2 mMol) was added, the solution stirred 4 hours, evaporated to an oil which was crystallized from water/ethanol, and crystallized again from water to yield 1.6 g, m.p. 175° (dec.) of N-(2-carboxybenzoyl)-D-histidine hydroxamic acid.

reactant | D-Histidine hydroxamic acid | 11.2 mMol, 1.9 g | N[C@H](CC1=CNC=N1)C(=O)NO | C6H10N4O2
reactant | Phthalic anhydride | 11.2 mMol, 1.65 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | N-(2-carboxybenzoyl)-D-histidine hydroxamic acid | 1.6 g | C(=O)(O)C1=C(C(=O)N(O)C([C@H](N)CC2=CNC=N2)=O)C=CC=C1 | C14H14N4O5
